Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
Pericardiocentesis ___

 
History of Present Illness:
___ with a history of type II diabetes mellitus, hypertension,
hyperlipidemia, and recent admission for pericarditis at ___, who initially presented to his outpatient
cardiologist's office with light-headedness and dizziness, found
to have large pericardial effusion with evidence of tamponade on
echocardiogram, subsequently transferred to ___ for
pericardiocentesis and drain placement. 

Patient was in his usual state of health until about two weeks
ago, when he developed sharp substernal chest pain, radiating to
his neck bilaterally. Initially presented to ___ 
ED,
but was discharged several hours later without a clear etiology
for his symptoms. Pain returned later that day, prompting him to
return to ___, where he was admitted for two days
with a diagnosis of pericarditis. Per patient report, his
echocardiogram at that time showed a mild pericardial effusion.
He was discharged home with a plan to taper ibuprofen over the
next three weeks, in addition to one month of colchicine 0.6mg
BID. Unfortunately he did not tolerate same, developing GI 
upset,
diarrhea, and generalized muscle aches, at which time he self
reduced the dose of colchicine to 0.6mg daily. However there was
no improvement in his symptoms and he discontinued colchicine
about four days ago. Over the same time period, he developed
notable dyspnea with minimal exertion. Denied further episodes 
of
chest pain, palpitations, light-headedness, dizziness, 
orthopnea,
PND, or worsening lower extremity edema. At baseline, he does
have mild lower extremity edema, left greater than right. On
___, he did have one episode of acute shortness of breath 
while
lying in bed, but this resolved within minutes.

Presented to his outpatient cardiologist for follow-up today,
where formal echocardiogram demonstrated evidence of early
tamponade with RA collapse, and mitral and tricuspid velocity
variation with inspiration. Referred to ___ for urgent
percardiocentesis.

Underwent successful pericardiocentesis and drain placement in
the cath lab, with 670ml of serosanguinous fluid removed
(predominantly sanguinous). Opening pressure was 20 mmHg, with a
residual pressure of 9 mmHg.

Upon arrival to the CCU, patient reports no symptoms. Currently
feeling well. Denies weight loss, joint pain, skin rashes,
changes in bowel habit (aside from colchicine related GI upset),
and fevers. No history of malignancy or autoimmune disease. Up 
to
date with age appropriate cancer screening, including
colonoscopy. He does report URI type symptoms over the past
month, but is unable to accurately delineate if this represents
his chronic sinus issues or a new viral URI.

10-point review of systems otherwise negative.
 

 
Past Medical History:
- Type II diabetes mellitus
- Hypertension
- Hyperlipidemia
- Pericarditis
- History of traumatic skull fracture
 
Social History:
___
Family History:
No significant family history. Denies history of premature
coronary artery disease, arrhythmias, cardiomyopathy, or
autoimmune disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 98.7  HR 107  BP 129/86  RR 19  SaO2 97% RA
GENERAL: sitting comfortably in bed, no acute distress, obese
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, JVP mildly elevated 
CV: tachycardic, S1 and S2 normal, no murmurs, soft rub
RESP: CTAB, no wheezes/crackles
CHEST: pericardial drain in place via apical approach, dressing
clean, dry and intact
___: soft, non-tender, obese, BS normoactive
EXTREMITIES: warm, well perfused, 1+ lower extremity edema left
greater than right
SKIN: venous insufficiency changes in lower extremities
NEURO: A/O x3, moving all four extremities with purpose, CNs
grossly intact

DISCHARGE PHYSICAL EXAM:
=======================
VS: T 98 HR 90 BP 133/84 RR 19 O2 95% RA
GENERAL: Middle-aged obese male in NAD resting in bed.
HEENT: Sclerae anicteric, MMM, EOM intact
NECK: Supple, non-tender, + Kussmaul's sign
CV: RRR, soft heart sounds, S1 and S2 normal, no murmurs or rub.
RESP: CTAB apically, no wheezes. Soft bibasilar crackles.
CHEST: Pericardial drain dressing c/d/i
___: Soft, non-tender, obese, BS normoactive
EXTREMITIES: Warm, well perfused, 1+ lower extremity edema L>R
SKIN: Venous insufficiency changes in lower extremities
NEURO: A/O x3, moving all four extremities equally, CNs grossly
intact

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:29PM BLOOD WBC-9.6 RBC-4.78 Hgb-14.0 Hct-43.9 MCV-92 
MCH-29.3 MCHC-31.9* RDW-12.4 RDWSD-41.3 Plt ___
___ 05:29PM BLOOD Neuts-79.2* Lymphs-10.2* Monos-8.1 
Eos-1.0 Baso-0.6 Im ___ AbsNeut-7.61* AbsLymp-0.98* 
AbsMono-0.78 AbsEos-0.10 AbsBaso-0.06
___ 05:29PM BLOOD ___ PTT-33.2 ___
___ 05:29PM BLOOD Glucose-97 UreaN-13 Creat-1.1 Na-139 
K-4.8 Cl-102 HCO3-23 AnGap-14
___ 05:29PM BLOOD ALT-41* AST-33 LD(___)-250 AlkPhos-77 
TotBili-0.8
___ 05:29PM BLOOD TotProt-7.1 Albumin-4.1 Globuln-3.0 
Calcium-10.6* Phos-3.1 Mg-1.9

PERTINENT LABS:
==============
___ 04:58PM OTHER BODY FLUID TNC-944* Hct,Fl-7.0* Polys-17* 
Lymphs-58* Monos-13* Macro-12*
___ 04:58PM OTHER BODY FLUID TotProt-4.8 Glucose-86 
LD(___)-1570 Albumin-2.8

DISCHARGE EXAM:
===============
___ 05:05AM BLOOD WBC-8.7 RBC-4.89 Hgb-14.4 Hct-44.8 MCV-92 
MCH-29.4 MCHC-32.1 RDW-12.5 RDWSD-41.7 Plt ___
___ 05:05AM BLOOD Glucose-130* UreaN-18 Creat-1.1 Na-140 
K-4.7 Cl-102 HCO3-25 AnGap-13
___ 05:05AM BLOOD ALT-26 AST-17 AlkPhos-69 TotBili-0.6
___ 05:05AM BLOOD Calcium-10.2 Phos-3.4 Mg-2.0

RELEVANT STUDIES:
=================
___ 4:58 pm FLUID,OTHER      PERICARDIAL. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

___ 4:58 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERICARDIANL. 

   Fluid Culture in Bottles (Pending):    No growth to date. 

RELEVANT REPORTS:
=================
___ TTE
CONCLUSION:
There is suboptimal image quality to assess regional left 
ventricular function. Overall left ventricular systolic function 
is normal. The visually estimated left ventricular ejection 
fraction is 70-75%. The
right ventricle has normal free wall motion. There is a small to 
moderate circumferential pericardial effusion, measuring up to 
1.4 in greatest dimension. The effusion is echo dense, c/w 
blood, inflammation or other cellular elements. There are no 2D 
or Doppler echocardiographic evidence of
tamponade.
IMPRESSION: Focused study/limited views. Suboptimal image 
quality. Small to moderate, echodense, circumferential 
pericardial effusion without echocardiographic evidence of 
tamponade physiology. Vigorous left ventricular systolic 
function. Compared with the prior TTE (images reviewed) of 
___, there is no obvious change, but the suboptimal image 
quality of the studies precludes definitive comparison.

___ EKG
Sinus tachycardia with premature atrial depolarizations
Incomplete right bundle branch block
Minimal voltage criteria for LVH, may be normal variant
Borderline ECG

___ TTE
The left ventricle has a small cavity. Overall left ventricular 
systolic function is normal to hyperdynamic. The
visually estimated left ventricular ejection fraction is 70%. 
The right ventricle was not well seen. There
is a moderate circumferential pericardial effusion. The effusion 
is echo dense, c/w blood, inflammation or
other cellular elements. There is normal respiratory variation 
in transmitral or transtricuspid inflow, suggesting
absence of tamponade physiology.

___ CARDIAC CATH
The procedure was not feasible without moderate sedation. Risks, 
benefits and alternatives were discussed and informed consent 
obtained. With rhythm, blood pressure and oxygen saturation 
monitors, constant nursing observation, and direct attending 
supervision, the patient received an appropriate level of 
sedation (see medication list above). The attending was at the 
bedside continuously for 35 min during sedation. The patient was 
subsequently observed with serial examinations until the return 
of presedation mental status.
After sterile prep, the left parasternal area was prepped and 
echocardiography was used to identify the optimal window for 
fluid removal - which was the 5 ICS MCL. A micropuncture was 
used to enter the pericardial space and was exchanged under 
flouroscopy to a pericardial drain. Appoximately 700 cc bloody 
fluid was removed without complications. Echocardiography showed 
resolution of the effusion with a fibrinous exudate residual. 
The pericardial pressure was reduced from 20 mmHg to 9 mmHg 
after pericardiocentesis with a residual effusive-contrictive 
picture. The patient was symptomatically improved after the 
procedure.

Complications: There were no clinically significant 
complications.

Impression
• Serosanguineous pericardial effusion causing tamponade
• Successful pericardiocentesis
Recommendations
• Maximize medical therapy
• Pericardial drain in the CCU overnight

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
=====================
___ with PMHx of T2DM, HTN, HLD, and recent admission for
pericarditis at ___, who initially presented to his
outpatient cardiologist's office with light-headedness and
dizziness, found to have large pericardial effusion with 
evidence
of tamponade on echocardiogram, subsequently transferred to 
___
now s/p pericardiocentesis, drain placement and removal. 

ACUTE ISSUES:
============
# Cardiac tamponade 
# Pericardial effusion likely ___ pericarditis
Now status post pericardiocentesis and drain placement ___, 
with removal of 670ml of serosanguinous fluid with opening 
pressure 20mmHg, residual pressure 9mmHg, and improvement in his 
symptoms. Unclear etiology at this time; suspect secondary to 
recent pericarditis, however pericardial studies are pending to 
evaluate for alternative etiology, including infection, 
malignancy, and autoimmune conditions. Drain was removed ___ 
after output was <50mL/24hr. Although patient did not tolerate 
colchicine BID as outpatient, patient is willing to try daily 
dosing. He was started on colchicine 0.6mg daily however, he 
again was intolerant of colchicine with symptoms of abdominal 
cramping while inpatient . He will also continue increased dose 
of ibuprofen 600mg q8H with omeprazole 40mg daily for GI 
prophylaxis, and will need a creatinine check in 1 week. On day 
of discharge, a follow-up TTE showed residual small-moderate 
residual circumferential pericardial effusion without cardiac 
tamponade physiology.

CHRONIC ISSUES:
===============
# T2DM
His home Januvia, glimepiride were held. He was continued on an 
insulin sliding scale while inpatient and home meds restarted on 
discharge. As a transitional issue, he should be evaluated for 
possible cardiovascular benefit from being on an SGLT-2 
inhibitor.

# HTN
His home losartan-HCTZ was held for the procedure and restarted 
given hypertension while in the hospital.

# HLD
He was continued on simvastatin 10mg daily and was transitioned 
to fenofibrate 48mg daily in place of home 54mg.

TRANSITIONAL ISSUES:
===================
[] repeat TTE in ___ weeks to re-evaluate pericardial effusion 
re-accumulation
[] repeat basic metabolic panel to evaluate creatinine in 1 week
[] follow up pericardial fluid studies and cytology
[] consider checking CRP/ESR to guide cessation of NSAIDs for 
pericarditis
[] consider starting an SGLT-2 for his diabetes and 
cardiovascular risk factors

===================
#CODE: Full code
#CONTACT/HCP: ___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Januvia (SITagliptin) 100 mg oral DAILY 
3. Colchicine 0.6 mg PO BID 
4. Omeprazole 40 mg PO DAILY 
5. glimepiride 2 mg oral DAILY 
6. Fenofibrate 54 mg PO DAILY 
7. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
8. Simvastatin 10 mg PO 2X/WEEK (___) 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Fenofibrate 54 mg PO DAILY  
4.  glimepiride 2 mg oral DAILY  
5.  Januvia (SITagliptin) 100 mg oral DAILY  
6.  losartan-hydrochlorothiazide 50-12.5 mg oral DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  Simvastatin 10 mg PO 2X/WEEK (___)  
9.Outpatient Lab Work
-V58.64 Long-term (current) use of non-steroidal 
anti-inflammatories (NSAID)
-Basic metabolic panel in 1 week (by ___
-Please fax to
Name: ___ 
Location: ___ MEDICAL ASSOCIATES, PC 
Address: ___, ___, ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
 Pericardial Effusion
 Cardiac Tamponade
 Pericardiocentesis

Secondary Diagnosis
===================
 Type II diabetes mellitus
 Hypertension
 Hyperlipidemia
 Pericarditis
 History of traumatic skull fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
 WHY WERE YOU ADMITTED TO THE HOSPITAL?  
 -  You were feeling lightheaded and dizzy and were found to 
have a fluid collection around your heart
 
 WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
 -  We placed a drain to help remove the fluid around your heart
 
 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Follow up with your doctors as listed below  
 - Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
 - Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

 Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___! 
 
 We wish you all the best!  

 - Your ___ Care Team  

 
Followup Instructions:
___